Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Doxycycline
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ female with a history of rheumatic heart
disease status post aortic valve replacement currently on
Coumadin as well as remote history of DVT who presents with 5
days of right-sided chest pain. The chest pain is sharp,
intermittent, worse with deep inspiration and coughing,
associated with mild shortness of breath on exertion, new
palpitations. She has been taking her Coumadin as prescribed. 
Her
last INR was 2.4 proximally 3 weeks ago. For the last 5 days she
also reports right lower extremity swelling. She denies any pain
in this extremity. 3 weeks ago she was involved in a car 
accident
in ___. She presented to the emergency department but was
discharged without any injury. 2 weeks ago she flew back to
___.

In the ED initial vitals were: 97.5, 83, 132/38, 18, 100% RA 
EKG: Atrial fibrillation with VR 79; normal axis; normal
intervals; No ST-changes, TWIs in III, aVR, and V1; poor R-wave
progression 
Exam notable for: 1+ BLE edema
Labs/studies notable for:
- CBC: WBC 5.0, Hgb 8.4, Plts 213
- BMP: BUN 12, Cr 0.7
- Coags: PTT 45.7, INR 2.9
- Trop: <0.01
- ProBNP: 718
- Lactate: 1.0

- CTA Chest IMPRESSION: 
1. No evidence of pulmonary embolism or acute aortic 
abnormality.
2. Constellation of findings suggestive of acute cardiac
decompensation, including mild pulmonary edema, trace bilateral
pleural effusions, and reflux of contrast into the IVC and
hepatic veins. No focal consolidation.
3. Mild bronchial wall thickening could be related to mild
pulmonary edema or airway inflammation.
- ___ IMPRESSION: No evidence of deep venous thrombosis in
the right lower extremity veins.
Patient was given: IV Lasix 20mg x1

Vitals on transfer: 98.3, 89, 134/68, 26, 97% RA   

On the floor patient confirms the above history.  She reports
that she has been feeling increasingly short of breath over the
past 2 months.  Over this time.  She reports that she has been
developing lower extremity edema (right worse than left),
orthopnea, and PND.  Over the last 1 month the patient developed
right-sided chest pain which is reproducible on palpation. 
However she reports that this chest pain is worsened with
exertion, though she is unable to pinpoint a distance that she
has to walk before the chest pain returns.  Otherwise she 
reports
is worsened with moving her right arm.

She reports that she had a chest pain prior to being in a car
accident in ___ 3 weeks ago.  She was restrained driver in a
car traveling 30 miles an hour that was hit by another car that
ran a red light.  Her airbags were deployed.  To the emergency
room where her primary complaint was neck pain.  While in the ED
she had imaging that rule out fracture.  She was given ibuprofen
for pain control.  She reports she had left-sided neck swelling
which she reports the ED physician was concerned for an 
infection
in her neck and gave her Augmentin, she was partially compliant
with.  She discontinued the medication entirely yesterday.  

Regarding her atrial fibrillation, patient reports that she does
not think she has been in atrial fibrillation since her most
recent valve repair in ___.  She reports being therapeutically
anticoagulated on warfarin.  She does not feel palpitations

Denies
f
ever/chills/nausea/vomiting/presyncope/lightheadedness/dizziness
/cough/abdominal pain/dysuria/myalgia/easy bruising
 
Past Medical History:
1. CARDIAC RISK FACTORS 
None
2. CARDIAC HISTORY 
- History of rheumatic heart disease c/b medication-resistant 
CHF
s/p porcine MVR ___, ___   
- Q-fever subacute bacterial endocarditis c/b severe MR and AR
s/p mechanical AVR and MVR ___, ___
- Atrial fibrillation
- History of NSVT: felt secondary to hypomagnesemia and 
prolonged
QTc
3. OTHER PAST MEDICAL HISTORY
- Hypothyroidism 
- CVA of L putamen
- History of supratherapeutic INR
- History of GIB
- Hepatitis B positive?
- History of leukocytoclastic vasculitis
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=======================  
VS: ___ Temp: 98.0 PO BP: 118/73 HR: 83 RR: 20 O2 sat:
97% O2 delivery: RA 
GENERAL: Well developed, well nourished. NAD, A&Ox3
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI.
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa.
No xanthelasma.  
NECK: JVP of 12-13 cm at 60 degrees
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Irregularly irregular rate/rhythm. III/VI systolic murmur
at RUSB. Radiates to right carotid. 
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. R >L
Peripheral edema. 
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

Discharge Exam: 
==============
24 HR Data (last updated ___ @ 631)
    Temp: 98.1 (Tm 98.3), BP: 120/65 (107-129/61-75), HR: 82
(79-108), RR: 18 (___), O2 sat: 98% (97-99), O2 delivery: RA,
Wt: 154.1 lb/69.9 kg  
Fluid Balance (last updated ___ @ 638) 
  Last 8 hours  Total cumulative -390ml
    IN: Total 260ml, PO Amt 260ml
    OUT:  Total 650ml, Urine Amt 650ml
  Last 24 hours  Total cumulative -720ml
    IN: Total 1230ml, PO Amt 1180ml, IV Amt Infused 50ml
    OUT:  Total 1950ml, Urine Amt 1950ml  
Tele: general: a fib with HRs in the ___, 1 brief episode of rvr
to 130 at 1300 on ___. 
GENERAL: awake and alert, in no acute distress
HEENT: NC/AT, sclera anicteric and without injection  
NECK: JVP elevated 3-4cm above the clavicle 
CARDIAC: normal rate, irregularly irregular rhythm, normal S1 
and
S2, lound systolic murmur
LUNGS: breathing comfortably on room air, crackles at L lung 
base

ABDOMEN: soft, non-distended, non-tender
EXTREMITIES: WWP. No ___ pitting edema.
NEURO: A&Ox3 

 
Pertinent Results:
=============
ADMISSION LABS
=============
___ 01:18PM   PLT COUNT-213
___ 01:18PM   ___ PTT-45.7* ___
___ 01:18PM   NEUTS-75.6* LYMPHS-15.4* MONOS-5.6 EOS-2.4 
BASOS-0.4 IM ___ AbsNeut-3.78 AbsLymp-0.77* AbsMono-0.28 
AbsEos-0.12 AbsBaso-0.02
___ 01:18PM   WBC-5.0 RBC-2.95* HGB-8.4* HCT-27.2* MCV-92 
MCH-28.5 MCHC-30.9* RDW-15.9* RDWSD-53.6*
___ 01:18PM   HCG-<5
___ 01:18PM   TSH-5.6*
___ 01:18PM   calTIBC-320 TRF-246
___ 01:18PM   IRON-49
___ 01:18PM   proBNP-718*
___ 01:18PM   cTropnT-<0.01
___ 01:18PM   estGFR-Using this
___ 01:18PM   GLUCOSE-81 UREA N-12 CREAT-0.7 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-108 TOTAL CO2-21* ANION GAP-12
___ 01:23PM   LACTATE-1.0
___ 06:12PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 06:12PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:12PM URINE  UCG-NEGATIVE
___ 06:12PM URINE  HOURS-RANDOM

================
PERTINENT STUDIES
================
___ venous duplex U/S ___
No evidence of deep venous thrombosis in the right lower 
extremity veins.

TTE ___
CONCLUSION:    
The left atrial volume index is SEVERELY increased. The right 
atrium is moderately enlarged. The estimated right atrial 
pressure is >15mmHg. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is normal regional 
and global left ventricular systolic function. Quantitative 
biplane left ventricular ejection fraction is 64 % (normal 
54-73%). There is no resting left ventricular outflow tract 
gradient. Diastolic function could not be assessed. Normal right 
ventricular cavity size with normal free wall motion. Intrinsic 
right ventricular systolic function is likely lower due to the 
severity of tricuspid regurgitation. There is a normal ascending 
aorta diameter for gender. The aortic arch diameter is normal. A 
bileaflet mechanical aortic valve prosthesis is present. The 
prosthesis is well seated with normal disc motion and 
transvalvular gradient. There is no aortic regurgitation. There 
is a bileaflet mechanical mitral valve prosthesis. The 
prosthesis is well-seated, with normal disc motion and normal 
mean gradient. There is trivial mitral regurgitation. Due to 
acoustic shadowing, the severity of mitral regurgitation could 
be UNDERestimated. The pulmonic valve leaflets are normal. There 
is mild pulmonic regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is SEVERE [4+] tricuspid 
regurgitation. There is moderate pulmonary artery systolic 
hypertension. In the setting of at least moderate to severe 
tricuspid regurgitation, the pulmonary artery systolic pressure 
may be UNDERestimated. The end-diastolic PR velocity is elevated 
suggesting pulmonary artery diastolic hypertension. There is no 
pericardial effusion.

IMPRESSION: Well-seated, normally functioning bileaflet aortic 
and mitral prostheses with trivial mitral regurgitation. Severe 
tricuspid regurgitation. At least moderate pulmonary 
hypertension given elevated RA pressure (llikely underestimated 
given 4+ TR). Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global biventricular systolic 
function.

Compared with the prior TTE (images not available for review) of 
___ , the severity of tricuspid regurgitation is now 
increased. Pulmonary hypertension is present.

============
MICROBIOLOGY
============
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMIKACIN--------------    16 S
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------  =>64 R
CEFTAZIDIME-----------  =>64 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------  =>16 R
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
TOBRAMYCIN------------  =>16 R
TRIMETHOPRIM/SULFA----   <=1 S
__________________________________________________________
___ 1:18 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

==============
DISCHARGE LABS
==============
___ 07:08AM BLOOD WBC-5.4 RBC-3.12* Hgb-8.8* Hct-27.9* 
MCV-89 MCH-28.2 MCHC-31.5* RDW-15.9* RDWSD-51.7* Plt ___
___ 07:08AM BLOOD ___ PTT-42.3* ___
___ 07:08AM BLOOD Glucose-92 UreaN-22* Creat-0.7 Na-139 
K-4.8 Cl-105 HCO3-19* AnGap-15
___ 07:08AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.___ female PMHx rheumatic heart disease s/p porcine MVR 
___,
Q fever endocarditis s/p mMVR and mAVR ___, hypothyroidism, 
admitted with new heart failure and new atrial fibrillation. 

CORONARIES: Unknown
PUMP: LVEF 64% TTE ___
RHYTHM: Atrial fibrillation

=============== 
ACTIVE ISSUES: 
=============== 
#decompensated HFpEF (LVEF 67% ___
Patient presents in heart failure with orthopnea, PND, lower
extremity edema, elevated BNP, pleural effusions on CTA. Trigger
for heart failure is unclear at this time and could potentially
be multifactorial secondary to pulmonary hypertension, tricuspid
regurgitation, and/or new atrial fibrillation. She was diuresed 
to euvolemia and will be discharged on 20mg furosemide daily. 
Her home metoprolol was increased to 50mg. 

#Atrial fibrillation 
Per patient and family report, the patient has not been in 
atrial
fibrillation since she had her valves replaced in ___. Now 
presents in afib. Triggers for her A. fib are possibly increased 
stretch the setting of heart failure exacerbation. She did not 
have
evidence of pulmonary embolism on CTA. She does not appear 
clinically infected (normal white count, no fevers, no 
localizing infectious symptoms). She recently started Synthroid 
but her TSH
is 5.6 so not hyperthyroid. Her home metoprolol was increased to 
50mg and she was rate controlled on discharge. She was continued 
on her home warfarin for AC. Should consider cardioversion as an 
outpatient. 

#moderate pHTN
Unclear etiology. Possibly class II secondary to left sided 
diastolic dysfunction. Unlikely to be class III or IV as there 
is no evidence of lung disease or PE on CTA chest. Possibly type 
I or could be autoimmune in nature (type V). 

#severe TR
Most likely secondary to pulmonary hypertension.

================ 
CHRONIC ISSUES: 
================ 
#Hypothyroidism
Continued home levothyroxine.

================== 
TRANSITIONAL ISSUES
================== 

Discharge weight: 154lbs. 
Discharge Cr: 0.7
Discharge diuretic:furosmide 20mg daily

[ ] Patient was euvolemic at discharge weight. Please check 
weight and assess volume status at next outpatient appointment. 

[ ] ___ benefit from spironolactone for HFpEF

[ ] Consider RHC with vasodilator study for workup of pHTN

[ ] Consider cardioversion for afib

[ ] pt reported a new appointment with cardiologist on ___ 
however she was unable to provide the physician's name. please 
fax d/c summary to new cardiologist.

[ ]Colonization with MDR E. Coli. See data above she was 
colonized with an e coli sensitive to Bactrim, nitrofurantoin 
and meropenem.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. Warfarin 5 mg PO DAILY16 

 
Discharge Medications:
1.  Furosemide 20 mg PO DAILY  
2.  Metoprolol Succinate XL 50 mg PO DAILY  
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  Levothyroxine Sodium 50 mcg PO DAILY  
5.  Warfarin 5 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
================
PRIMARY DIAGNOSIS
================
acute on chronic diastolic heart failure
moderate pulmonary hypertension
severe tricuspid regurgitation
atrial fibrillation

==================
SECONDARY DIAGNOSIS
==================
hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

You were here because of shortness of breath, caused by having 
too much fluid in your body and you and were given medications 
to help you pee out the extra fluid. This was related to your 
heart's ability to pump effectively. 

After you leave the hospital, please take all of your 
medications as prescribed and attend all of your scheduled 
appointments. Please weigh yourself every day. If you weight 
goes up by more than 3 pounds in one day or five pounds in three 
days, call your doctor. It is important for you to follow up 
with your primary care physician in about 1 week and to see a 
cardiologist within ___ weeks.

We wish you the best in the future!

Sincerely,

Your ___ care team.

 
Followup Instructions:
___